Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left-sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ woman with hypertension and remote
history of stroke approximately ___ years ago but without other
significant medical history for vascular risk factors who
presents as a transfer from an outside hospital emergency
department for evaluation of stroke.

___ and ___ family note that approximately ___ years ago, she
had sudden onset of left arm and leg weakness.  She was 
evaluated
at an outside hospital emergency department where she had a CT
scan, and they were told she had a "old stroke "but she did not
have further neuro imaging or stroke workup at that time.  She
gradually improved over the coming weeks to months and 
eventually
return to her baseline.

She had been well until approximately 3:00 this morning, when 
she
woke up to go to the bathroom.  Her daughter heard her up and
went to check on her and noticed that she seemed to be using her
left hand in a clumsy fashion and also relying more on her 
walker
to keep her balance.  When ___ spoke, her daughter noticed
that she seemed to have slurred speech, concerning her or a
stroke.  She stopped her mother down and within 10 minutes, her
speech had normalized.  Approximately 1 hour later, she went up
to go to the bathroom again, and continued to have an imbalanced
gait, but she seem to be using her left arm better.  She went
back to sleep and awoke at 8 AM, and at that time was noted to 
be
back to her baseline.  Her family brought her to the ___ ___.  There, she was noted to be newly in atrial
fibrillation.  She had a noncontrast head CT which was negative
for any acute bleed, she had basic labs, including a CBC, LFTs,
and chemistry which were all unremarkable.  She was given a full
dose aspirin, dose of diltiazem, and started on a heparin drip
prior to transfer to the ___ for further evaluation. 
En route, she lost her IV and so her heparin drip was stopped.

Upon arrival to the emergency department, she was given a dose 
of
Lovenox in light of her heparin drip being suddenly stopped.  On
exam, she was noted to have normal mental status, and symmetric
strength throughout, although was noted to have possible
dysmetria on her left.  Neurology has been consulted for further
stroke workup and management.

 
Past Medical History:
Hypertension  
Osteoarthritis
Concern for prior stroke (___), causing left leg and left arm
weakness, now resolved      
 
Social History:
___
Family History:
Her ___ sister is on blood thinners, but for unclear
reasons.        
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION

 Vitals: Temperature: 98.1°, heart rate: 110, blood pressure:
196/116, respiratory rate: 30, SPO2: 96% on room air
 General: NAD, lying in bed and frequently cracking jokes.
 HEENT: NCAT, no oropharyngeal lesions, dentures in place, moist
mucous membranes, sclerae anicteric
 Neck: Supple
 ___: Warm and well perfused, pulse is irregularly irregular
 Pulmonary: Breathing comfortably on room air
 Abdomen: nondistended
 Extremities: Left ankle and foot with nonpitting edema,
reportedly at baseline.  Otherwise extremities are warm,
well-perfused, and nonedematous.
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status - Awake, alert, oriented to person, "hospital 
in
___ and month/year. Attention to examiner easily 
maintained.
Recalls a coherent history. Speech is fluent with full 
sentences,
intact repetition, and intact verbal comprehension. Content of
speech demonstrates intact naming and no paraphasias. Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI without nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry.  Unable to hear 
finger
rubbing or snapping in the left, but intact in the right. No
dysarthria. Palate elevation symmetric. Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift, or vomiting, or
difficulty with repetitive finger tapping laterally.  No tremor
or asterixis.
   Delt   Bic Tri WrE FFl FE IO    IP    Quad Ham TA ___
 L 4+*    ___   ___ 4+*   4+*    5  5     5     5
 R  5      ___   ___  5       5        5  5     5     
5
*: Pain limited, due to arthritis

- Sensory - No deficits to light touch throughout.  Mild, length
dependent, symmetric reduction to vibration in the distal lower
extremities.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   trace
 R  2  2    2    2   trace
 Plantar response flexor bilaterally.

- Coordination -mild intention tremor on the left with
finger-nose-finger, but no dysmetria.  Finger-nose-finger on the
right is smooth.  Heel-knee-shin is smooth without dysmetria
bilaterally.  Rapid alternating movements intact bilaterally. 

- Gait -deferred

DISCHARGE PHYSICAL EXAMINATION

 Vitals: Temperature: 97.7°, heart rate: 88, blood pressure: 
143/102, respiratory rate: 18, SPO2: 97% on room air
 General: Alert, cooperative, in NAD.
 HEENT: NCAT, moist mucous membranes, sclerae anicteric
 ___: Warm and well perfused
 Pulmonary: Breathing comfortably on room air
 Skin: No rashes or lesions

Neurologic Examination:
 - Mental Status: Awake, alert, cooperative. Speech is fluent 
with intact comprehension. Able to follow midline and 
appendicular commands.

- Cranial Nerves: EOMI without nystagmus. No facial movement 
asymmetry. No dysarthria. 

- Motor: No pronator drift. Mild postural tremor bilaterally 
with outstretched hands.
   Delt Bic Tri IP 
 L  4    ___  
 R  4    ___  

- Sensory: No deficits to light touch throughout.

- DTRs: ___.

- Coordination: Deferred.
 
Pertinent Results:
___ 05:30AM BLOOD WBC-5.9 RBC-4.41 Hgb-13.6 Hct-40.7 MCV-92 
MCH-30.8 MCHC-33.4 RDW-13.3 RDWSD-45.3 Plt ___
___ 02:00PM BLOOD Neuts-72.4* Lymphs-18.9* Monos-7.7 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-6.26* AbsLymp-1.64 
AbsMono-0.67 AbsEos-0.02* AbsBaso-0.03
___ 08:47AM BLOOD ___ PTT-27.9 ___
___ 05:30AM BLOOD Glucose-151* UreaN-16 Creat-0.8 Na-140 
K-4.0 Cl-99 HCO3-28 AnGap-13
___ 08:47AM BLOOD ALT-12 AST-21 LD(LDH)-243 CK(CPK)-95 
AlkPhos-69 TotBili-0.8
___ 05:30AM BLOOD Calcium-9.6 Phos-3.2 Mg-2.1
___ 08:47AM BLOOD %HbA1c-7.9* eAG-180*
___ 08:47AM BLOOD Triglyc-139 HDL-59 CHOL/HD-3.4 
LDLcalc-111
___ 08:47AM BLOOD CRP-6.0*
___ 04:45PM URINE Color-Straw Appear-Clear Sp ___
___ 04:45PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-70* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 04:45PM URINE RBC-<1 WBC-0 Bacteri-NONE Yeast-NONE 
Epi-2
___ 10:27PM URINE UCG-NEGATIVE
___ 10:27PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 4:45 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 9:08 AM MR HEAD W/O CONTRAST 
1. Scattered acute infarcts involving right insula/external 
capsule, right 
frontal operculum, right precentral gyrus and right parietal 
lobe. 
2. Medial right occipital lobe encephalomalacia possibly relates 
to an old 
infarct. 
3. Small old right cerebellar infarct. 
4. Mild white matter chronic small vessel disease. 
5. Age related brain parenchyma involutional changes. 
6. Additional findings as described above. 

___ 9:13 ___ CTA HEAD W&W/O C & RECONS; CTA NECK W&W/OC & 
RECONS 
1. No convincing evidence for acute territorial infarction or 
intracranial 
hemorrhage.  Please note that MRI is more sensitive for the 
detection of 
cerebral ischemia and infarction.  Chronic right occipital lobe 
infarct. 
2. CTA head and neck demonstrates gross patency to the 
intracranial and 
cervical vasculature with multiple sites of atherosclerotic 
disease as 
detailed above. 
3. Two tiny aneurysms versus infundibular origins are noted at 
the right 
ICA/MCA junction.  Recommend attention at follow-up. 
4. Ectasia of the bilateral M1 segments and bilateral cavernous 
internal 
carotid arteries. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with hypertension who 
presents with dysarthria along with left arm and leg weakness 
found to have a right MCA stroke. Etiology of her symptoms was 
thought to be secondary to atrial fibrillation, which was a new 
diagnosis for her. Her rate was well-controlled on Metoprolol. 
She was started on Apixaban for treatment of afib. Atorvastatin 
was started for hyperlipidemia. A1C was 7.9, which was a new 
diagnosis diabetes. She was evaluated by ___ who recommend home 
with home ___ and family support. 

Transitional issues: 
-Consider starting Metforming for treatment of new diabetes
-Uptitrate Metoprolol for rate control 

 AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack 
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No 
 2. DVT Prophylaxis administered? (x) Yes - () No 
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No 
 4. LDL documented? (x) Yes (LDL = ) - () No 
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
 8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No 
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
 10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No 
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO QAM 
2. Hydrochlorothiazide 12.5 mg PO QAM 
3. Lisinopril 30 mg PO QAM 
4. Calcium Carbonate 600 mg PO QAM 
5. Fish Oil (Omega 3) 300 mg PO DAILY 
6. garlic 1,000 mg oral QAM 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*5 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*5 
3.  Calcium Carbonate 600 mg PO QAM  
4.  Fish Oil (Omega 3) 300 mg PO DAILY  
5.  garlic 1,000 mg oral QAM  
6.  Hydrochlorothiazide 12.5 mg PO QAM  
7.  Lisinopril 30 mg PO QAM  
8.  Metoprolol Succinate XL 50 mg PO QAM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute right MCA ischemic stroke 
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were hospitalized due to symptoms of left sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Atrial fibrillation
- Diabetes
- High cholesterol
- High blood pressure 
 
We are changing your medications as follows:  
START APIXABAN 5MG TWICE A DAY
START ATORVASTATIN 80MG NIGHTLY 
 
Please take your other medications as prescribed.  
 
Please follow up with Neurology and your primary care physician 
as listed below.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___